US07314936B2
To a solution of (2-hydroxy-cyclohexyl)-carbamic acid ethyl ester (2.06 g, 11.0 mmol, 1.0 eq.) in THF (80 mL) was added LiAlH4 (1.09 g, 28.7 mmol, 2.6 eq.) and the resulting mixture was heated at 65° C. for 2 h. The reaction mixture was cooled to 0° C., quenched with water, and the separated aqueous phase was extracted with 3×EtOAc. The combined organic phase was dried over MgSO4, filtered and concentrated to give 2-methylamino-cyclohexanol (1.19 g, 84%).

reactant | (2-hydroxy-cyclohexyl)-carbamic acid ethyl ester | 11.0 mmol, 2.06 g, 1.0 eq. | C(C)OC(NC1C(CCCC1)O)=O | C9H17NO3
reactant | LiAlH4 | 28.7 mmol, 1.09 g, 2.6 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-methylamino-cyclohexanol | 1.19 g, 84% | CNC1C(CCCC1)O | C7H15NO
